US08912180B2
N2-[6-Chloro-2-(methylsulfanyl)pyrimidin-4-yl]-4-methylbenzene-1,2-diamine (6 g) and difluoroacetic anhydride (7.4 g) were dissolved in acetonitrile (60 mL), followed by stirring at room temperature for 1 hour. After confirming that the starting material had been disappeared, a 4 M solution (53 mL) of hydrogen chloride in 1,4-dioxane was added thereto, followed by stirring at 100° C. for 10 hours. After the completion of the reaction, the mixture was cooled to room temperature, and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine. The obtained organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane) to obtain 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-6-methyl-1H-benzimidazole (2.9 g) as a pale yellow powder.

reactant | N2-[6-Chloro-2-(methylsulfanyl)pyrimidin-4-yl]-4-methylbenzene-1,2-diamine | 6 g | ClC1=CC(=NC(=N1)SC)NC=1C(=CC=C(C1)C)N | C12H13ClN4S
reactant | difluoroacetic anhydride | 7.4 g | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-6-methyl-1H-benzimidazole | 2.9 g | ClC1=CC(=NC(=N1)SC)N1C(=NC2=C1C=C(C=C2)C)C(F)F | C14H11ClF2N4S
